US07459554B2
1-[3-(4-tert-Butoxy-benzyloxy)-phenyl]-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine:
A solution of 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol (200 mg, 0.71 mmol) in DMF (3.5 mL) was charged with Cs2CO3 (348 mg, 1.07 mmol) and stirred at rt for 30 min. A solution of 1-bromomethyl-4-tert-butoxy-benzene (162 mg, 0.71 mmole) in 0.5 mL of DMF, was added to the reaction mixture. After 15 h, the reaction was complete by LC/MS analysis. The product was an orange/brown solid. The crude product was chromatographed on silica gel [Jones Flashmaster, 5 g cartridge, eluting with 10% ethyl acetate]. The product was then recrystalized with ethyl acetate and hexanes yielding the title compound as a white solid; 1H NMR (CDCl3, 400 MHz) δ 1.36 (s, 9H), 2.11-2.23 (m, 2H), 2.45-2.52 (m, 2H), 2.59-2.69 (m, 2H), 3.77-3.85 (m, 1H), 5.08 (s, 2H), 5.49 (brs, 2H), 7.01-7.04 (m, 3H), 7.05 (dd, J=4.00 Hz, 1H), 7.10 (d, J=5.02 Hz, 1H), 7.23-7.25 (m, 1H), 7.29 (q, J=40 Hz, 1H), 7.34-7.36 (m, 2H), 7.41 (t, J=16 Hz, 1H); MS (ES+): m/z 443.04 (100) [MH+].

reactant | 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol | 0.71 mmol, 200 mg | NC=1C=2N(C=CN1)C(=NC2C=2C=C(C=CC2)O)C2CCC2 | C16H16N4O
reactant | Cs2CO3 | 1.07 mmol, 348 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromomethyl-4-tert-butoxy-benzene | 0.71 mmole, 162 mg | BrCC1=CC=C(C=C1)OC(C)(C)C | C11H15BrO
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-[3-(4-tert-Butoxy-benzyloxy)-phenyl]-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine | C(C)(C)(C)OC1=CC=C(COC=2C=C(C=CC2)C=2N=C(N3C2C(=NC=C3)N)C3CCC3)C=C1 | C27H30N4O2
